US04486434
5-Amino-2-(4-aminobutyl)-3-methylpyridine (5.11 g) in hydrobromic acid (48%, 47 ml) was reacted with cuprous bromide (4.98 g) and copper bronze (0.18 g). A solution of sodium nitrite (2.45 g) in water (16 ml) was added at 5° to 8° C. over 45 minutes, the reaction mixture was allowed to stir at 5° to 8° C. for a further hour and then stirred at room temperature for 3.5 hours. The reaction mixture was diluted with water, and hydrogen sulphide gas was passed, while the pH was progressively raised to 11 by the addition of sodium hydroxide solution. The precipitated copper salts were filtered off at intervals during the above procedure. The product was then extracted at pH 11 with chloroform to give 5-bromo-2-(4-aminobutyl)-3-methylpyridine (4.95 g) m.p. 35°-37° C.

reactant | 5-Amino-2-(4-aminobutyl)-3-methylpyridine | 5.11 g | NC=1C=C(C(=NC1)CCCCN)C | C10H17N3
reactant | sodium nitrite | 2.45 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrobromic acid | 47 ml | Br | BrH
solvent | water | 16 ml | O | H2O
solvent | hydrogen sulphide | S | H2S
catalyst | copper bronze | 0.18 g | [Cu] | Cu
product | 5-bromo-2-(4-aminobutyl)-3-methylpyridine | 4.95 g | BrC=1C=C(C(=NC1)CCCCN)C | C10H15BrN2
